US09212182B2
A RBF was charged with (E)-ethyl 3-(2-amino-5-(benzylthio)-4-fluorophenyl)acrylate (1.60 g, 4.83 mmol), 1-bromo-2-chloro-4-iodo-5-methoxybenzene (2.013 g, 5.79 mmol), xantphos (0.140 g, 0.241 mmol), Pd2(dba)3 (0.111 g, 0.121 mmol), cesium carbonate (2.360 g, 7.24 mmol) and toluene (7.98 ml). The flask was kept under Argon, a reflux condenser was attached and the flask was lowered into a 110° C. heating bath and heated for 4 hours. The mixture was cooled to RT, diluted with EtOAc, and filtered through celite with the aid of EtOAc. The filtrate was concentrated. The oily residue was taken up in 2-PrOH (it remained an oil). The mixture was then concentrated to give a yellow solid with some oily solid present. The mixture was taken up in 2-PrOH to give a suspension, and the suspension was stirred overnight, which broke up the darker, oily solid. The mixture was filtered, and the filtered solid was washed with 2-PrOH (3×). The collected solid was dried on the filter under a flow of N2 (g) for 15 min to give ((E)-ethyl 3-(5-(benzylthio)-2-((4-bromo-5-chloro-2-methoxyphenyl)amino)-4-fluorophenyl)acrylate (1.8 g, 3.27 mmol, 67.7% yield)as a bright-yellow solid. m/z (ESI) 548.1

reactant | (E)-ethyl 3-(2-amino-5-(benzylthio)-4-fluorophenyl)acrylate | 4.83 mmol, 1.60 g | NC1=C(C=C(C(=C1)F)SCC1=CC=CC=C1)/C=C/C(=O)OCC | C18H18FNO2S
reactant | 1-bromo-2-chloro-4-iodo-5-methoxybenzene | 5.79 mmol, 2.013 g | BrC1=C(C=C(C(=C1)OC)I)Cl | C7H5BrClIO
reactant | cesium carbonate | 7.24 mmol, 2.360 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | toluene | 7.98 ml | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd2(dba)3 | 0.121 mmol, 0.111 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | xantphos | 0.241 mmol, 0.140 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
product | (E)-ethyl 3-(5-(benzylthio)-2-((4-bromo-5-chloro-2-methoxyphenyl)amino)-4-fluorophenyl)acrylate | 3.27 mmol, 1.8 g, 67.7% yield | C(C1=CC=CC=C1)SC=1C(=CC(=C(C1)/C=C/C(=O)OCC)NC1=C(C=C(C(=C1)Cl)Br)OC)F | C25H22BrClFNO3S
